data/mechanism_extracts/Angew/10.1002_anie.202218533_sup_3.json
{"doi": "10.1002_anie.202218533_sup_3", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical Co-catalyzed enantioselective C-H activation forming an isolable chiral cobaltacycle intermediate via anodic oxidation", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation (RVC anode, CPE @ 1.5 V vs Ag+/Ag) oxidizes Co(II) to higher-valent Co(III)/Co species enabling C-H metalation and formation of the cobaltacycle", "key_intermediates": [{"name": "Chiral cobaltacycle (RC)-Co-1 with Salox ligand, benzamide substrate, and quinoline coordination", "smiles": null, "role": "stoichiometric_intermediate"}, {"name": "Co(II)/Salox/benzamide pre-complex", "smiles": null, "role": "resting_state"}, {"name": "High-valent Co(III) species after anodic oxidation", "smiles": null, "role": "reactive"}], "electron_flow": "Co(OAc)2 coordinates with the (R)-Salox ligand L1-7 and benzamide 1a; anodic oxidation at the RVC electrode oxidizes Co(II) to Co(III), which enables concerted metalation-deprotonation (CMD) of the ortho C-H bond (assisted by pivalate) to generate the isolable five-membered chiral cobaltacycle (RC)-Co-1. Protons are reduced at the Pt cathode.", "rate_determining_step": "C-H metalation (CMD) at the high-valent Co center", "probe_reagents": [{"name": "Isolation of cobaltacycle (RC)-Co-1", "smiles": null, "purpose": "intermediate_trap", "observation": "Cobaltacycle isolated in 28% yield (50.3 mg) as dark yellow solid, characterized by 1H/13C NMR and HRMS ([M+Na]+ calcd 622.1511, found 622.1507), confirming chiral C-H metalated Co species"}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Only the synthesis/characterization of the chiral cobaltacycle intermediate via constant potential electrolysis is shown on this page; subsequent mechanistic experiments (catalytic competence, KIE, DFT) may appear elsewhere in the SI but are not present here. NaOPiv serves as the carboxylate base assisting CMD."}
